US08877744B2
Reaction of [bis-(4-methoxy-phenyl)-phenyl-methyl]-{(R)-5-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl}-amine (intermediate B10.1) (199 mg, 254 μmol) with 4-bromobenzonitrile (61.3 mg, 330 μmol) yielded the 3′-((R)-3-{[bis-(4-methoxy-phenyl)-phenyl-methyl]-amino}-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-5-yl)-4′-fluoro-biphenyl-4-carbonitrile (137 mg, 78% yield) as a white foam. MS (ISP): m/z=690.4 [M+H]+.

reactant | [bis-(4-methoxy-phenyl)-phenyl-methyl]-{(R)-5-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl}-amine | 254 μmol, 199 mg | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)NC=1COC(C([C@@](N1)(C)C1=C(C=CC(=C1)B1OCC(CO1)(C)C)F)(F)F)(C)C | C40H44BF3N2O5
reactant | 4-bromobenzonitrile | 330 μmol, 61.3 mg | BrC1=CC=C(C#N)C=C1 | C7H4BrN
product | 3′-((R)-3-{[bis-(4-methoxy-phenyl)-phenyl-methyl]-amino}-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-5-yl)-4′-fluoro-biphenyl-4-carbonitrile | 137 mg, 78% yield | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)NC=1COC(C([C@@](N1)(C)C=1C=C(C=CC1F)C1=CC=C(C=C1)C#N)(F)F)(C)C | C42H38F3N3O3
